US05840732
v) Synthesis of 9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
To a solution of 7.21 g (25 mmol) of 7-benzyl-9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione in 200 ml of toluene, 12.5 g (50 mmol) of boron tribromide was added under ice cooling conditions, followed by refluxing for 16 hours. After the reaction mixture was cooled, 50 ml of methanol was added, followed by stirring for 30 minutes. After this mixture was concentrated to dryness, methanol-diethyl ether was added to the residue. The resulting precipitate was collected by filtration, washed with diethyl ether and dried to yield 3.97 g (80.1%, light white crystal) of the desired product.

reactant | 7-benzyl-9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 25 mmol, 7.21 g | C(C1=CC=CC=C1)N1C(N2C(SCCC2)=C(C1=O)C)=O | C15H16N2O2S
reactant | boron tribromide | 50 mmol, 12.5 g | B(Br)(Br)Br | BBr3
reactant | methanol | 50 ml | CO | CH4O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 9-methyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | CC=1C(NC(N2C1SCCC2)=O)=O | C8H10N2O2S
